US07812022B2
To a solution of 2,6-difluoro-N-[3-(3-{2-[(3-{[[2-(methylsulfonyl)ethyl](trifluoro-acetyl)amino]methyl}phenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]benzamide (102 mg, 0.14 mmol) in THF (3 mL) and water (0.5 mL) was added LiOH.H2O (12 mg, 0.28 mmol). The solution was stirred at 50° C. for 1 h, then diluted with 25 mL EtOAc and washed with 1 M aqueous Na2CO3. The aqueous layer was extracted with EtOAc, and the combined organic layers were dried over Na2SO4, filtered, and lyophilized to generate 42 mg of the title compound as a yellow powder (77 mg, 84% yield). 1H NMR (400 MHz, d6-DMSO): δ 10.95 (s, 1H), 9.55 (s, 1H), 8.86 (d, J=6.6 Hz, 1H), 8.52 (d, J=8.2 Hz, 1H), 8.27 (d, J=5.0 Hz, 1H), 8.02 (s, 1H), 7.83 (d, J=7.9 Hz, 1H), 7.75 (s, 1H), 7.59 (d, J=7.3 Hz, 1H), 7.50 (bs, 2H), 7.37 (d, J=7.5 Hz, 1H), 7.27 (d, J=7.7 Hz, 1H), 7.22 (t, J=8.1 Hz, 1H), 7.13-7.18 (m, 4H), 6.93 (d, J=6.9 Hz, 1H), 6.53 (d, J=5.5 Hz, 1H), 3.67 (s, 2H), 3.23 (bs, 2H), 3.01 (s, 3H), 2.87-2.91 (m, 2H). MS (ESI) m/z=654 [M+H]+.

reactant | 2,6-difluoro-N-[3-(3-{2-[(3-{[[2-(methylsulfonyl)ethyl](trifluoro-acetyl)amino]methyl}phenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]benzamide | 0.14 mmol, 102 mg | FC1=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC=C3)=C2C2=NC(=NC=C2)NC2=CC(=CC=C2)CN(C(C(F)(F)F)=O)CCS(=O)(=O)C)C(=CC=C1)F | C36H28F5N7O4S
reactant | LiOH.H2O | 0.28 mmol, 12 mg | O[Li].O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 2,6-Difluoro-N-{3-[3-(2-{[3-({[2-(methylsulfonyl)ethyl]amino}methyl)-phenyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}benzamide | 42 mg, 84% yield | FC1=C(C(=O)NC2=CC(=CC=C2)C2=NN3C(C=CC=C3)=C2C2=NC(=NC=C2)NC2=CC(=CC=C2)CNCCS(=O)(=O)C)C(=CC=C1)F | C34H29F2N7O3S
